US07842713B2
4-(4-(Dimethylcarbamoyl)-3-fluorophenoxy)-2-methyl-N-(1-methyl-1H-pyrazol-3-yl)benzofuran-6-carboxamide
The title compound was prepared in a similar manner as described for Example 271, from ethyl 4-hydroxy-2-methylbenzofuran-6-carboxylate (0.275 g, 1.25 mmol), 2,4-difluoro-N,N-dimethylbenzamide (0.289 g, 1.56 mmol) and 1-methyl-1H-pyrazol-3-amine (0.21 g, 2.12 mmol) in two steps to give a solid (5 mg, 1% yield) as expected product. 1H NMR (400 MHz, DMSO-d6) δ 10.90 (s, 1 H) 8.12 (s, 1 H) 7.61-7.62 (m, 2 H) 7.38-7.42 (t, 1 H) 7.03-7.06 (m, 1 H) 6.88-6.91 (m, 1 H) 6.58-6.59 (m, 1 H) 6.50 (m, 1 H) 3.78 (s, 3 H) 3.00 (s, 3 H) 2.88 (m, 3 H) 2.47-2.48 (m, 3 H). LCMS for C23H21FN4O4 m/z 437.20 (M+H)+.

reactant | ethyl 4-hydroxy-2-methylbenzofuran-6-carboxylate | 1.25 mmol, 0.275 g | OC1=CC(=CC2=C1C=C(O2)C)C(=O)OCC | C12H12O4
reactant | 2,4-difluoro-N,N-dimethylbenzamide | 1.56 mmol, 0.289 g | FC1=C(C(=O)N(C)C)C=CC(=C1)F | C9H9F2NO
reactant | 1-methyl-1H-pyrazol-3-amine | 2.12 mmol, 0.21 g | CN1N=C(C=C1)N | C4H7N3
product | 4-(4-(Dimethylcarbamoyl)-3-fluorophenoxy)-2-methyl-N-(1-methyl-1H-pyrazol-3-yl)benzofuran-6-carboxamide | CN(C(=O)C1=C(C=C(OC2=CC(=CC3=C2C=C(O3)C)C(=O)NC3=NN(C=C3)C)C=C1)F)C | C23H21FN4O4
